US07485644B2
Crude t-butyl 4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine-1-carboxylate (15.30 g, 0.04M) was dissolved in DCM (150 ml) and TFA (30 ml) was added. The mixture was stirred at room temperature overnight, evaporated to dryness and azeotroped with toluene. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution and the organic phase was collected, dried over MgSO4, filtered and evaporated to dryness to yield 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine as a solid (10.97 g, 98%)

reactant | t-butyl 4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine-1-carboxylate | 0.04M, 15.30 g | FC(C(F)F)(OC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)F | C17H22F4N2O3
reactant | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine | 10.97 g, 98% | FC(C(F)F)(OC1=CC=C(C=C1)N1CCNCC1)F | C12H14F4N2O
